US07713979B2
1-Cyclohex-3-enyl-pyrrolidin-2-one
Using trans-1-(4-hydroxy-cyclohexyl)-pyrrolidin-2-one (6.0 g, 0.03 mol Preparation 14)) and DAST (8.6 mL, 0.06 mol) and purification by chromatography on silica gel, obtain the title compound as a clear oil (1.29 g, 26%). MS (EI) m/z=165 (M+).

reactant | trans-1-(4-hydroxy-cyclohexyl)-pyrrolidin-2-one | 0.03 mol, 6.0 g | O[C@@H]1CC[C@H](CC1)N1C(CCC1)=O | C10H17NO2
reactant | DAST | 0.06 mol, 8.6 mL | CCN(CC)S(F)(F)F | C4H10F3NS
product | 1-Cyclohex-3-enyl-pyrrolidin-2-one | 1.29 g, 26% | C1(CC=CCC1)N1C(CCC1)=O | C10H15NO
